*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/8.20e-03[uF]/250[V]
* Murata P/N :GCM21B5C2E822FX0A
* Property : C = 8.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2E822FX0A Port1 Port2
C01 Port1 N01 8.20e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 3.81e-10
R03 N02 N03 6.33e-03
C04 N03 N04 1.13e-07
R04 N03 N04 2.21e+01
L05 N04 N05 8.63e-11
R05 N04 N05 3.86e-01
L06 N05 N06 5.32e-11
R06 N05 N06 1.04e-02
C07 N06 N07 2.39e-08
L07 N06 N07 4.84e-11
R07 N06 N07 3.82e-01
C08 N07 N08 1.53e-08
L08 N07 N08 3.28e-11
R08 N07 N08 3.91e-01
C09 N08 Port2 5.24e-09
L09 N08 Port2 3.17e-11
R09 N08 Port2 1.81e-01
.ENDS GCM21B5C2E822FX0A
